.title Pass Labs F5Turbo V2, schematic and netlist by KiCad
.include "F5models.lib"
.probe I(R19) vd(R10) v(in) v(out) vd(Net-_P3-Pad1_, 0)   ; <------------------------------------------
*.probe alli   ; <------------------------------------------
JQ2 Net-_P2-Pad1_ Net-_Q1-Pad2_ Net-_P3-Pad1_ 2SJ74
R4 0 Net-_P3-Pad1_ 10
R6 Net-_P2-Pad1_ -32 1k
MQ5 out Net-_Q5-Pad2_ Net-_D1a1-Pad2_ IRFP240
R15 Net-_Q5-Pad2_ Net-_P2-Pad1_ 47.5
R12 Net-_R12-Pad1_ Net-_P2-Pad1_ 2.2k
RTH2 Net-_D1a1-Pad2_ Net-_R12-Pad1_ 4.7k
XP2 Net-_P2-Pad1_ -32 -32 RPOT value=5k ratio=0.15
R21 Net-_D1a1-Pad2_ -32 1
R10 out Net-_P3-Pad1_ 220
R9 out Net-_P3-Pad1_ 220
JQ1 Net-_P1-Pad1_ Net-_Q1-Pad2_ Net-_P3-Pad1_ 2SK170
R1 Net-_Q1-Pad2_ in 1k
XP3 Net-_P3-Pad1_ 0 Net-_P3-Pad1_ RPOT value=200 ratio=0.85
R5 +32 Net-_P1-Pad1_ 1k
R3 Net-_P3-Pad1_ 0 10
R2 in 0 47.5k
.probe i(R2)   ; <------------------------------------------
R19 +32 Net-_D4a1-Pad1_ 1
R14 Net-_Q4-Pad2_ Net-_P1-Pad1_ 47.5
D3a1 +32 Net-_D3a1-Pad1_ DMOD
D3b1 +32 Net-_D3a1-Pad1_ DMOD
R20 +32 Net-_D4a1-Pad1_ 1
D4a1 +32 Net-_D4a1-Pad1_ DMOD
D4b1 +32 Net-_D4a1-Pad1_ DMOD
MQ4 out Net-_Q4-Pad2_ Net-_D4a1-Pad1_ IRFP9240
.probe V(MQ4:3)   ; <------------------------------------------
R11 Net-_R11-Pad1_ Net-_P1-Pad1_ 2.2k
RTH1 Net-_D3a1-Pad1_ Net-_R11-Pad1_ 4.7k
XP1 Net-_P1-Pad1_ +32 +32 RPOT value=5k ratio=0.15
R13 Net-_Q3-Pad2_ Net-_P1-Pad1_ 47.5
MQ3 out Net-_Q3-Pad2_ Net-_D3a1-Pad1_ IRFP9240
.probe i(MQ3, 3) i(MQ5, s)  ; <------------------------------------------
.probe p(MQ3) p(MQ5)  ; <------------------------------------------
R18 +32 Net-_D3a1-Pad1_ 1
R17 +32 Net-_D3a1-Pad1_ 1
R7 out Net-_P3-Pad1_ 220
R8 out Net-_P3-Pad1_ 220
D1b1 Net-_D1a1-Pad2_ -32 DMOD
R22 Net-_D1a1-Pad2_ -32 1
R23 Net-_D2a1-Pad2_ -32 1
R24 Net-_D2a1-Pad2_ -32 1
D1a1 Net-_D1a1-Pad2_ -32 DMOD
R16 Net-_Q6-Pad2_ Net-_P2-Pad1_ 47.5
MQ6 out Net-_Q6-Pad2_ Net-_D2a1-Pad2_ IRFP240
.probe vd(MQ6: 2:1)   ; <------------------------------------------
D2a1 Net-_D2a1-Pad2_ -32 DMOD
D2b1 Net-_D2a1-Pad2_ -32 DMOD
Rl1 out 0 4
V1 +32 0 32
V2 -32 0 -32
V3 in 0 sin(0 2 1k)
.probe I(XP2,1)   ; <------------------------------------------

* erroneous .probe parameters 
.probe (xyz)   ; <------------------------------------------
.probe Vd(MQ3: 7 : 0)   ; <------------------------------------------
.probe i(MQ8, s)   ; <------------------------------------------

.tran 10u 10m


.control
run
display
rusage
plot out in
plot i(mq3:s) i(mq5:s)
plot mq3:power mq5:power
meas tran mq3power avg mq3:power
meas tran mq5power avg mq5:power
.endc

.end
